US08877772B2
Preparation of 3-benzyl-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
To a solution of 3-benzylidene-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (41 mg, 0.106 mmol) in a mixture of MeOH (2 ml), THF (1 ml) and water (0.3 ml) was added sodium borohydride (40 mg, 1.06 mmol). The reaction was stirred at room temperature for 10 min after which it was quenched by the addition of 1 N HCl and partitioned between water and DCM. The residue was purified by preparatory HPLC to yield the title compound (5.2 mg, 13%).

reactant | 3-benzylidene-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 0.106 mmol, 41 mg | C(C1=CC=CC=C1)=C1C(NC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C23H20N2O4
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | water | 0.3 ml | O | H2O
reactant | sodium borohydride | 1.06 mmol, 40 mg | [BH4-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
product | 3-benzyl-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 5.2 mg, 13% | C(C1=CC=CC=C1)C1C(NC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C23H22N2O4
